US08026370B2
6-phenylnicotinic acid ethyl ester
Under nitrogen atmosphere, 6-chloronicotinic acid ethyl ester (24.0 g) and phenylboric acid (23.6 g) were dissolved in dioxane (200 mL) and aqueous sodium carbonate solution (2M, 100 mL), tetrakis(triphenylphosphine)palladium (7.0 g) was added, and the mixture was refluxed for 8 hr. The reaction mixture was cooled, water was added thereto, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography (elution solvent; hexane:ethyl acetate=7:1 to 5:1) to give the title compound (25.5 g) as a white solid.

reactant | 6-chloronicotinic acid ethyl ester | 24.0 g | C(C)OC(C1=CN=C(C=C1)Cl)=O | C8H8ClNO2
reactant | phenylboric acid | 23.6 g | C1(=CC=CC=C1)OB(O)O | C6H7BO3
reactant | sodium carbonate | 2M, 100 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | dioxane | 200 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 7.0 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-phenylnicotinic acid ethyl ester | 25.5 g | C(C)OC(C1=CN=C(C=C1)C1=CC=CC=C1)=O | C14H13NO2
